US07994185B2
Step B: N-{5-[2-Cyclobutyl-5-(2-{[1-(methylsulfonyl)-4-piperidinyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-cyclobutyl-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.10 g, 0.19 mmol) was added 1-(methylsulfonyl)-4-piperidinamine (0.33 g, 1.9 mmol) and THF (2 mL) the title compound was obtained (0.12 g, 0.18 mmol, 98% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.77 (s, 1H), 8.08 (d, J=5.1 Hz, 1H), 7.64-7.19 (m, 7H), 6.34-6.01 (m, 1H), 3.83 (quin, J=8.5 Hz, 1H), 3.72-3.40 (m, 2H), 2.91-2.64 (m, 5H), 2.43-2.15 (m, 6H), 2.08-1.77 (m, 3H), 1.63-1.33 (m, 2H). MS (ESI): 679 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-cyclobutyl-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.19 mmol, 0.10 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCC1)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H16ClF3N4O2S2
reactant | 1-(methylsulfonyl)-4-piperidinamine | 1.9 mmol, 0.33 g | CS(=O)(=O)N1CCC(CC1)N | C6H14N2O2S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-{5-[2-Cyclobutyl-5-(2-{[1-(methylsulfonyl)-4-piperidinyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 98% yield | C1(CCC1)C=1SC(=C(N1)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F)C1=NC(=NC=C1)NC1CCN(CC1)S(=O)(=O)C | C29H29F3N6O4S3
